********************************************************************************************************
*
* Nexperia PSMN4R3-40MLH
* Polarity N - Channel
* Ratings 40V/4.3mOhm/95A
* Revision N#: 1.0
* Created on 2020-03-10 13:21:47
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT PSMN4R3-40MLH D G S

* Package impedance
LD D 5 1.000p
RLD2 D 5 1.257m
RLD1 5 4 3.000u
LG G 1 1.509n
RLG G 1 1.896
LS S 8 520.0p
RLS2 S 8 653.5m
RLS1 8 7 320.0u

* Drain,gate and source resistances
RD 3 4 2.704m TC= 4.188m,57.92u
RG 1 2 790.4m
RS 6 7 1.000u

* Body Diode
RBD 9 4 874.0u TC= 4.000m,23.00u
DBD 7 9 D_DBD
RDS 7 4 8.000MEG TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 160.0MEG
CGS 2 6 1.894n

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 3 2 VALUE {V(13,0)*I(V11)}
E11 12 0 3 2 1
E12 13 0 TABLE {V(12)}
+ (-16.0,1135.0)
+ (-15.0,1135.0)
+ (-12.0,1135.0)
+ (-10.0,1135.0)
+ (-8.0,1135.0)
+ (-6.0,1135.0)
+ (-5.0,1135.0)
+ (-4.0,1135.0)
+ (-3.0,1135.0)
+ (-2.0,1135.0)
+ (-1.0,602.4)
+ (-0.5,422.6)
+ (-0.2,374.9)
+ (-0.1,375.0)
+ (0.0,350.3)
+ (0.1,323.4)
+ (0.2,324.1)
+ (0.5,291.2)
+ (1.0,251.3)
+ (2.0,194.5)
+ (3.0,153.4)
+ (4.0,122.1)
+ (5.0,102.5)
+ (6.0,91.77)
+ (8.0,84.73)
+ (10.0,83.96)
+ (12.0,83.45)
+ (15.0,82.49)
+ (16.0,82.19)
+ (20.0,80.9)
+ (25.0,79.54)
+ (30.0,78.47)
+ (32.0,78.02)

.MODEL MINT NMOS Vto= 2.372 Kp= 355.1 Nfs= 578.4G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 837.0

.MODEL D_DBD D Bv= 44.00 Ibv= 250.0u Rs= 1.000u Is= 1.335p
+ N= 1.000 M= 461.0m VJ= 644.0m Fc= 500.0m Cjo= 2.630n Tt= 15.43n

.ENDS PSMN4R3-40MLH

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************