.model D_SPC60 D (is=2.5e-11, bv=10)
*                +   -
.subckt c60_cell OUT LOW
R1 MID OUT 0.004
I1 LOW MID dc(6.14)

D1 MID LOW D_SPC60

.ends

*                   - + 
.subckt c60_panel14 1 2
X1  1  3  c60_cell
X2  3  4  c60_cell
X3  4  5  c60_cell
X4  5  6  c60_cell
X5  6  7  c60_cell
X6  7  8  c60_cell
X7  8  9  c60_cell
X8  9  10 c60_cell
X9  10 11 c60_cell
X10 11 12 c60_cell
X11 12 13 c60_cell
X12 13 14 c60_cell
X13 14 2  c60_cell
.ends
